US07399867B2
5-Bromo-2-methanesulfonyl-1,3-dimethyl-benzene
Dissolve 5-bromo-1,3-dimethyl-2-methylsulfanyl-benzene (555 mg, 2.42 mmol) in methanol (30 mL) and treat with oxone (6.0 g, 9.8 mmol). Stir the mixture at ambient temperature for 1 hour. Filter the suspension through silica gel and elute with CH2Cl2 (100 mL). Evaporate the filtrate to give 316 mg (50%) of the title compound.

reactant | 5-bromo-1,3-dimethyl-2-methylsulfanyl-benzene | 2.42 mmol, 555 mg | BrC=1C=C(C(=C(C1)C)SC)C | C9H11BrS
reactant | oxone | 9.8 mmol, 6.0 g | OOS(=O)[O-].[K+]
reactant | methanol | 30 mL | CO | CH4O
product | 5-Bromo-2-methanesulfonyl-1,3-dimethyl-benzene | 316 mg, 50% | BrC=1C=C(C(=C(C1)C)S(=O)(=O)C)C | C9H11BrO2S
